US05817829
100 g of 3-chloro-1-methyl-5-pyrazole-carboxylic acid (the Compound No. 4.1 (a) of the present invention) were suspended in 200 ml of benzene, and 150 ml of thionyl chloride were added thereto dropwise. Then, the mixture was heat-refluxed for 4 hours. The reaction mixture was allowed to cool, and the solvent was then distilled off under reduced pressure. The resulting residue was distilled under reduced pressure to obtain 103 g of the intended 3-chloro-1-methyl-5-pyrazolecarbonyl chloride.

reactant | 3-chloro-1-methyl-5-pyrazole-carboxylic acid | 100 g | ClC1=NN(C(=C1)C(=O)O)C | C5H5ClN2O2
reactant | thionyl chloride | 150 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-chloro-1-methyl-5-pyrazolecarbonyl chloride | 103 g | ClC1=NN(C(=C1)C(=O)Cl)C | C5H4Cl2N2O
